US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-benzylbenzo[b]thiophene-3-sulfonamide was prepared by the method of Example 41 with 4-bromo-3-methyl-5-aminoisoxazole (1.0 mmoles, 0.177 g), NaH (2.5 mmoles, 100 mg), 2-benzylbenzo[b]thiophene-3-sulfonyl chloride (1.2 mmoles, 0.39 g) and THF (7 ml). Flash chromatography (5% methanol/chloroform) followed by recrystallization from chloroform and hexanes provided 0.11 g (24%) of a tan crystalline solid, m.p. 120°-123° C.

reactant | 4-bromo-3-methyl-5-aminoisoxazole | 1.0 mmoles, 0.177 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 2.5 mmoles, 100 mg | [H-].[Na+]
reactant | 2-benzylbenzo[b]thiophene-3-sulfonyl chloride | 1.2 mmoles, 0.39 g | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)S(=O)(=O)Cl | C15H11ClO2S2
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-benzylbenzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC1=CC=CC=C1)C=CC=C2)C | C19H15BrN2O3S2
